US08222245B2
1,1-Dimethylethyl 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
To a solution of 3-chloro-4-[(1-methylethyl)oxy]benzoic acid (Preparation 6) (1.406 g, 6.55 mmol) in DMF was added HOBT (1.103 g, 7.20 mmol) and EDC (1.381 g, 7.20 mmol), the resultant solution was stirred under argon for 10 mins at room temp. 1,1-dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 41)(2 g, 6.55 mmol) was then added to the reaction mixture and the solution heated at 80° C. overnight. The solvent was removed in vacuo and the residue dissolved in methanol for purification by Biotage Horizon, reverse phase cartridge, eluting 5-100% acetonitrile in water. The product containing fractions (last 5) were concentrated in vacuo to yield the title compound as a yellow oil (950 mg, 1.87 mmol, 29% yield). δH (d6DMSO, 400 MHz): 8.19 (1H, d), 8.11 (1H, dd), 7.83-7.89 (2H, m), 7.45 (1H, d), 7.37 (1H, d), 4.89 (1H, sept), 3.50 (4H, br.s), 2.96 (4H, br.s), 1.41 (9H, s), 1.36 (6H, d). MS (ES): C26H3035ClN3O4 requires 483; found 384 [M+H−100]+.

reactant | 3-chloro-4-[(1-methylethyl)oxy]benzoic acid | 6.55 mmol, 1.406 g | ClC=1C=C(C(=O)O)C=CC1OC(C)C | C10H11ClO3
reactant | HOBT | 7.20 mmol, 1.103 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 7.20 mmol, 1.381 g
reactant | 1,1-dimethylethyl 7-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 6.55 mmol, 2 g | ONC(C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)=N | C16H23N3O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 1,1-Dimethylethyl 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.87 mmol, 950 mg, 29% yield | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C26H30ClN3O4
